US08535430B2
The disclosed embodiments stem from the examination of several classes of compounds that quantitatively react with hydrazine to form stable organic products. The reaction of 2-ketoglutaric acid with hydrazine reacts to provide a greater than 99% yield of 6-oxo-1,4,5,6-tetrahydro-pyridazine-3-carboxylic acid (PCA) based on hydrazine as the limiting reagent. It has been found that this compound allows for the facile remediation of hydrazine under a variety of conditions. The focus of the disclosed embodiments concerns the use of 2-ketoglutaric acid or other dicarbonyl compounds for the remediation of hydrazine.

reactant | hydrazine | NN | H4N2
reactant | 2-ketoglutaric acid | O=C(C(=O)O)CCC(=O)O | C5H6O5
product | 6-oxo-1,4,5,6-tetrahydro-pyridazine-3-carboxylic acid | greater than 99% yield | O=C1CCC(=NN1)C(=O)O | C5H6N2O3
